US04540703
4-(1-Methyl-1,2,3,4-tetrazol-5-yl)thio-butyric acid (2 g) is dissolved in dry tetrahydrofuran (30 ml), and thereto is added triethylamine (1.1 g). To the mixture is added dropwise with stirring isobutyl chloroformate (1.5 g) under ice-cooling. The mixture is stirred at room temperature for 30 minutes. To the mixture is further added dropwise with stirring diethylamine (0.9 g) at room temperature, and the mixture is stirred for 2 hours. The mixture is concentrated under reduced pressure, and the resulting residue is purified by subjecting it to column chromatography (Kieselgel 60, made by Merck & Co.). By eluting with n-hexane-ethyl acetate (1:1), there is obtained N,N-diethyl-4-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-butyramide (1.4 g), colorless liquid, nD17.5 =1.5227

reactant | 4-(1-Methyl-1,2,3,4-tetrazol-5-yl)thio-butyric acid | 2 g | CN1N=NN=C1CCCC(=S)O | C6H10N4OS
reactant | triethylamine | 1.1 g | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 1.5 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | diethylamine | 0.9 g | C(C)NCC | C4H11N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N,N-diethyl-4-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-butyramide | 1.4 g | C(C)N(C(CCCC1=NN=NN1C)=S)CC | C10H19N5S
